US05153210
A solution of 2-(4-acetonylphenoxymethyl)-5-benzyloxy-4H-pyran-4-one, ethylene ketal (2.0 g) in methanol was hydrogenated at ambient temperature and pressure over 10% palladium on carbon until absorption of hydrogen was complete. The catalyst was filtered off and the solvent removed in vacuo. The residue was dissolved in acetone (75 ml) and treated with 2N-hydrochloric acid solution (2 ml) and allowed to stand at room temperature for 2 h. The solvent was then removed in vacuo, the residue dissolved in ethyl acetate, washed with water (2×50 ml), brine (1×50 ml) and dried (magnesium sulphate). After filtration and evaporation of the solvent, the residue was purified by column chromatography on silica using methanol-chloroform (2:98) as eluent to give 2-(4-acetonylphenoxymethyl) -5-hydroxy-4H-pyran-4-one, (1.2 g).

reactant | 2-(4-acetonylphenoxymethyl)-5-benzyloxy-4H-pyran-4-one | C(C(=O)C)C1=CC=C(OCC=2OC=C(C(C2)=O)OCC2=CC=CC=C2)C=C1 | C22H20O5
solvent | methanol | CO | CH4O
product | 2-(4-acetonylphenoxymethyl) -5-hydroxy-4H-pyran-4-one | 1.2 g | C(C(=O)C)C1=CC=C(OCC=2OC=C(C(C2)=O)O)C=C1 | C15H14O5
